US08865752B2
Step-4: A solution of N-(4-(2-(dimethylamino)butanoyl)phenyl)acetamide (3.80 g, 15.30 mmol) in 40 mL MeOH was cooled in an ice bath under N2 and treated with NaBH4 (725 mg, 19.12 mmol), added in one portion. The reaction vessel was removed from the ice bath and stirred at rt over the weekend. The reaction was quenched with acetone, then concentrated in vacuo and partitioned between DCM and half-saturated NaHCO3. The aqueous phase was extracted four times with DCM and the organic extracts were combined and dried over Na2SO4. The solution was decanted and concentrated in vacuo. The solid residue was purified by silica gel column chromatography eluting with 10%-12% MeOH (2N NH3)/DCM to provide the syn-isomer of N-(4-(2-(dimethylamino)-1-hydroxybutyl)phenyl)acetamide as a white amorphous solid and the anti-isomer as a straw colored oil. MS ESI: m/z 251.17 [M+1+].

reactant | N-(4-(2-(dimethylamino)butanoyl)phenyl)acetamide | 15.30 mmol, 3.80 g | CN(C(C(=O)C1=CC=C(C=C1)NC(C)=O)CC)C | C14H20N2O2
reactant | NaBH4 | 19.12 mmol, 725 mg | [BH4-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | N-(4-(2-(dimethylamino)-1-hydroxybutyl)phenyl)acetamide | CN(C(C(O)C1=CC=C(C=C1)NC(C)=O)CC)C | C14H22N2O2
